US07732446B1
[1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-carbamic acid benzyl ester
A solution of (4-Azidocarbonyl-6,7-dimethoxy-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester (1.36 g) in 40 mL of toluene was heated to 95° C. for 20 min, then the reaction flask was removed from the oil bath and benzyl alcohol (600 mg, 1.5 eq) and triethylamine (355 mg, 1.0 eq) were added. The reaction was allowed to stir at 80° C. After 3 h, TLC indicated clean conversion to a single product. The reaction was diluted with 30 mL EtOAc, and 25 mL 1% NH4OH. The aqueous phase was extracted with 20 mL EtOAc, and the combined organics were washed with brine, dried over MgSO4, and filtered though a 1-cm plug of silica. After removal of the solvent, the residue was purified by flash chromatography, eluting with a gradient of 1%-5% MeOH in DCM to give 1.05 g (64%) of the desired product. H1-NMR (CDCl3): δ 8.50 (br s, 1H), 7.3-7.5 (m, 1H), 6.75 (s, 1H), 6.12 (s, 1H), 5.24 (s, 2H), 4.82 (d, 1H), 4.00 (s, 3H), 3.91 (s, 3H), 1.49 (s, 9H).

reactant | (4-Azidocarbonyl-6,7-dimethoxy-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester | 1.36 g | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(=O)N=[N+]=[N-])=O | C18H21N5O5
reactant | benzyl alcohol | 600 mg, 1.5 eq | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 355 mg, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | NH4OH | 25 mL | [NH4+].[OH-]
product | [1-(tert-Butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-carbamic acid benzyl ester | 1.05 g, 64% | C(C1=CC=CC=C1)OC(NC1=CN=C(C2=CC(=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C)=O | C25H29N3O6
